US06884868B1
A mixture of methyl 4-[5-[4-(7-methoxy-n-heptyloxy)phenyl]-1,2,4-oxadiazol-3-yl]benzoate (5.4 g) and 10% sodium hydroxide aqueous solution (15 ml) in ethanol (60 ml) and tetrahydrofuran (30 ml) was stirred at 60-70° C. for 2 hours. The reaction mixture was concentrated under reduced pressure and water added to the residue and adjusted to pH 1 using hydrochloric acid. The precipitates were collected by filtration, washed with water and dried in vacuo to give 4-[5-[4-(7-methoxy-n-heptyloxy)phenyl]-1,2,4-oxadiazol-3-yl]benzoic acid (4.4 g).

reactant | methyl 4-[5-[4-(7-methoxy-n-heptyloxy)phenyl]-1,2,4-oxadiazol-3-yl]benzoate | 5.4 g | COCCCCCCCOC1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C(=O)OC)C=C1 | C24H28N2O5
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[5-[4-(7-methoxy-n-heptyloxy)phenyl]-1,2,4-oxadiazol-3-yl]benzoic acid | 4.4 g | COCCCCCCCOC1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C(=O)O)C=C1 | C23H26N2O5
